US07696223B2
c) 4-{[(2,4-Dimethoxy-benzyl)-ethoxycarbonylmethyl-amino]-methyl}-2-(4-fluoro-phenyl)-thiazole-5-carboxylic acid ethyl ester
A mixture of 4-bromomethyl-2-(4-fluoro-phenyl)-thiazole-5-carboxylic acid ethyl ester (2.02 g, 5.89 mmol), (2,4-dimethoxy-benzylamino)-acetic acid ethyl ester (1.49 g, 5.89 mmol) and potassium carbonate (1.22 g, 8.83 mmol) in anhydrous dimethylformamide (15 mL) was stirred at room temperature for 18 h before it was quenched with water, extracted with ethyl acetate. The organic layer was washed with water, brine, dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel with a gradient of ethyl acetate and hexanes to give the title compound as a yellow oil (2.39 g): MS: (+) m/z 539.22 (M+Na+).

reactant | 4-bromomethyl-2-(4-fluoro-phenyl)-thiazole-5-carboxylic acid ethyl ester | 5.89 mmol, 2.02 g | C(C)OC(=O)C1=C(N=C(S1)C1=CC=C(C=C1)F)CBr | C13H11BrFNO2S
reactant | (2,4-dimethoxy-benzylamino)-acetic acid ethyl ester | 5.89 mmol, 1.49 g | C(C)OC(CNCC1=C(C=C(C=C1)OC)OC)=O | C13H19NO4
reactant | potassium carbonate | 8.83 mmol, 1.22 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | 4-{[(2,4-Dimethoxy-benzyl)-ethoxycarbonylmethyl-amino]-methyl}-2-(4-fluoro-phenyl)-thiazole-5-carboxylic acid ethyl ester | 2.39 g | C(C)OC(=O)C1=C(N=C(S1)C1=CC=C(C=C1)F)CN(CC(=O)OCC)CC1=C(C=C(C=C1)OC)OC | C26H29FN2O6S
